data/mechanism_extracts/AsianJOC/10.1002_ajoc.202100607.json
{"doi": "10.1002_ajoc.202100607", "journal": "AsianJOC", "is_review": false, "rxn_class_summary": "Electrochemical oxidative selenylation/cyclization of 4-arylpent-4-enoic acids with diaryl (or dialkyl) diselenides to afford selenated gamma-lactones in an undivided cell with Pt electrodes and LiClO4/MeCN.", "mechanism_family": ["radical_anodic", "cation_initiated", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of PhSeSePh to its radical cation, which fragments into PhSe+ and PhSe radical; the alkenoic acid is also oxidizable (Eox = 2.4 V) and a radical-addition intermediate is further oxidized at the anode to a carbocation. Protons are reduced to H2 at the cathode.", "key_intermediates": [{"name": "diphenyl diselenide radical cation (I)", "smiles": "[Se+](c1ccccc1)([Se]c1ccccc1)", "role": "transient"}, {"name": "phenylselenyl radical (II, PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl cation (III, PhSe+)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "seleniranium ion (IV) from PhSe+ addition to alkene of 1a", "smiles": null, "role": "reactive"}, {"name": "beta-selenyl carbon radical (V) from PhSe• addition to alkene", "smiles": null, "role": "reactive"}, {"name": "beta-selenyl carbocation (VI) from anodic oxidation of V", "smiles": null, "role": "reactive"}, {"name": "selenated gamma-lactone product 3a", "smiles": "O=C1OC(c2ccccc2)(C[Se]c2ccccc2)CC1", "role": "reactive"}], "electron_flow": "Path a (ionic): anode oxidizes PhSeSePh to a radical cation that fragments to PhSe+ and PhSe•; PhSe+ forms a seleniranium with the alkene, and intramolecular carboxylate attack closes the gamma-lactone. Path b (radical): PhSe• adds to the alkene to give a C-radical, which is anodically oxidized to a carbocation, then trapped by the pendant carboxylate with deprotonation; protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield of 3a decreased to 44% but reaction not fully inhibited, implicating a partial radical pathway."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield of 3a reduced to 67%; partial inhibition consistent with radical involvement."}, {"name": "1,1-diphenylethene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield of 3a reduced to 65%; partial inhibition consistent with radical involvement."}, {"name": "cyclopropyl-substituted styrene (16)", "smiles": "C(=C)(C1CC1)c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened/rearranged product 17 obtained in 41% (E:Z = 1.3:1), supporting a radical addition pathway."}, {"name": "cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks at 2.4 V (1a) and 1.7 V (2a), indicating diselenide is preferentially oxidized at the anode."}, {"name": "PhSSPh (disulfide 14) in place of diselenide", "smiles": "S(c1ccccc1)Sc1ccccc1", "purpose": "intermediate_trap", "observation": "Only trace lactone 15 formed, showing the chemistry is specific to Se radical/cation chemistry."}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors explicitly propose two parallel pathways (path a, ionic via seleniranium from PhSe+; path b, radical via PhSe• addition then anodic oxidation to a cation). They state they cannot rule out the radical pathway; both converge on the same carbocation-like intermediate trapped by the carboxylate. Control with disulfide failed (only trace product), and substrate scope shows alkyl diselenides also work, supporting a general Se electrophile/radical mechanism."}
